US06770646B2
a) 2-(1-Hydroxy-3-methylbutyl)furan-3-carboxylic acid
3-Furoic acid (2.85 g) was dissolved in tetrahydrofuran (50 ml) and cooled to −78° C. A solution of lithium diisopropylamide (56 mmol) in tetrahydrofuran (100 ml) was added dropwise and the mixture was stirred for 15 minutes. A solution of 3-methylbutanal (3.0 ml) in tetrahydrofuran (15 ml) was added dropwise. The reaction mixture was stirred at −78° C. for 1 h and then allowed to warm to ambient temperature. The mixture was poured into water, the aqueous phase was acidified with 2M hydrochloric acid and the mixture was extracted twice with ethyl acetate. The organic phases were washed with brine, dried, filtered and evaporated. Chromatography, eluting with dichloromethane:ethyl acetate:acetic acid (160:40:1), gave the sub-title compound (2.75 g).

reactant | 3-Furoic acid | 2.85 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | lithium diisopropylamide | 56 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-methylbutanal | 3.0 ml | CC(CC=O)C | C5H10O
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(1-Hydroxy-3-methylbutyl)furan-3-carboxylic acid | 2.75 g | OC(CC(C)C)C=1OC=CC1C(=O)O | C10H14O4
